US06448397B1
To a mixture of 7-(2-chloroethoxy)-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazole (0.273 g, 0.751 mmol) in dry DMF (10 mL) is added sodium iodide (0.113 g, 0.751 mmol), potassium carbonate (0.207 g, 1.5 mmol), and ethanolamine (0.046 g, 0.751 mmol). The mixture is heated at 85° C. for 17 h. The temperature is then increased to 90° C. and the mixture is allowed to stir for another 5 h. The mixture is then cooled to room temperature and partitioned between water and ether. The organic layer is washed twice with water (50 mL), dried over anhydrous sodium sulfate and concentrated. Column chromatography (50 mL silica gel) using 5% methanol in CH2Cl2 gave 0.123 g (42%) of 2-({2-[(1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]ethyl}amino)-1-ethanol.

reactant | 7-(2-chloroethoxy)-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazole | 0.751 mmol, 0.273 g | ClCCOC1=CC=CC=2N3C4=C(C=CC=C4C12)OCC3C3=CC=CC=C3 | C22H18ClNO2
reactant | sodium iodide | 0.751 mmol, 0.113 g | [I-].[Na+]
reactant | potassium carbonate | 1.5 mmol, 0.207 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanolamine | 0.751 mmol, 0.046 g | C(O)CN | C2H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-({2-[(1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]ethyl}amino)-1-ethanol | 0.123 g, 42% | C1(=CC=CC=C1)C1COC=2C=CC=C3C=4C(=CC=CC4N1C23)OCCNCCO | C24H24N2O3
